US05385904
Piperazinium-N,N'-diacetyl-L-cystinate [Ib; R=NH2 (1,4) CH2 (2,3,5,6)]
To N,N'-diacetyl-L-cystine (4.60 mmole, 1.49 g) dissolved in 5 mL of water was added piperazine (4.60 mmole, 0.90 g). To the solution was added enough isopropanole to cause formation of an oil, which slowly solidifies. The salt was isolated and dried.

reactant | N,N'-diacetyl-L-cystine | 4.60 mmole, 1.49 g | C(C)(=O)N[C@@H](CSSC[C@@H](C(=O)O)NC(C)=O)C(=O)O | C10H16N2O6S2
reactant | piperazine | 4.60 mmole, 0.90 g | N1CCNCC1 | C4H10N2
solvent | water | 5 mL | O | H2O
product | Piperazinium N,N'-diacetyl-L-cystinate | [NH2+]1CCNCC1.C(C)(=O)N[C@@H](CSSC[C@@H](C(=O)[O-])NC(C)=O)C(=O)[O-] | InChI=1S/C10H16N2O6S2.C4H10N2/c1-5(13)11-7(9(15)16)3-19-20-4-8(10(17)18)12-6(2)14;1-2-6-4-3-5-1/h7-8H,3-4H2,1-2H3,(H,11,13)(H,12,14)(H,15,16)(H,17,18);5-6H,1-4H2/p-1/t7-,8-;/m0./s1
